US05536725
This compound is prepared in a manner analogous to that of Step B of Example 2, using 20.1 grams (0.039 mole) of (2,2,3,3-tetrafluoro-2,3-dihydrobenzofuran-7-ylmethyl)triphenylphosphonium bromide, 15.4 mL (0.039 mole) of n-butyllithium (2.5M in hexanes), and 5.0 grams (0.032 mole) of 1,4-cyclohexanedione mono-ethylene ketal in about 55 mL of dry tetrahydrofuran, yielding 8-(2,2,3,3-tetrafluoro-2,3-dihydrobenzofuran-7-ylmethylene)-1,4-dioxaspiro[4.5]decane.

reactant | (2,2,3,3-tetrafluoro-2,3-dihydrobenzofuran-7-ylmethyl)triphenylphosphonium bromide | 0.039 mole, 20.1 grams | [Br-].FC1(OC2=C(C1(F)F)C=CC=C2C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)F
reactant | n-butyllithium | 0.039 mole, 2.5M, 15.4 mL | C(CCC)[Li]
reactant | 1,4-cyclohexanedione mono-ethylene ketal | 0.032 mole, 5.0 grams | C1COC2(CCC(CC2)=O)O1 | C8H12O3
solvent | tetrahydrofuran | about 55 mL | O1CCCC1 | C4H8O
product | 8-(2,2,3,3-tetrafluoro-2,3-dihydrobenzofuran-7-ylmethylene)-1,4-dioxaspiro[4.5]decane | FC1(OC2=C(C1(F)F)C=CC=C2C=C2CCC1(OCCO1)CC2)F | C17H16F4O3
